* C:\Users\angel\Desktop\Bryx\SPICE\GPIO_ground_closure_converter\MOS_driver\MOS_driver.asc
A1 0 0 0 0 0 0 0 0 BUF
V1 N002 0 5
V2 N001 0 12v
M2 N001 N002 Vout N001 PMOS
M1 Vout N002 0 0 NMOS
V5 N006 0 5
V6 N003 0 12
R2 N007 N006 1k
R_Load 0 Vout2 16.2k
M3 N005 N007 0 0 NMOS
M4 N003 N004 Vout2 N003 PMOS
R1 N006 0 10k
R3 N003 N004 100k
R4 N004 N005 5k
Rin N008 0 10k
R7 Vout3 0 16.2k
Vin N010 0 0
Vcc N009 0 12
Rf Vout3 N008 14k
XU2 N010 N008 N009 0 Vout3 level.2 Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0 phimargin=45 en=0 enk=0 in=0 ink=0 Rin=500Meg
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\angel\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
;tran 0 500n 0 10p
.inc opamp.sub
.op 0 500n 0 10p
.lib UniversalOpamps2.sub
.backanno
.end
